data/pmechdb/original/mc_train_fold0/raw/train.txt
CCC(=[NH+]CCC1=CC=CC=C1)O[P:20]([O-:10])([Cl:21])(Cl)Cl>>CCC(=[NH+]CCC1=CC=CC=C1)O[P:20](=[O:10])(Cl)Cl.[Cl-:21] 10=20;20,21=21
[H:20][CH:21](C)[C:22](C)(C)[O:23]P(=O)(Cl)Cl.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.C[CH:21]=[C:22](C)C.[O-:23]P(=O)(Cl)Cl 10=20;22,23=23;20,21=21,22
CC[NH:10]CC.C[CH:20]=[NH+:21]C>>CC[NH+:10](CC)[CH:20](C)[NH:21]C 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CC1=CC(=C(C=C1)CC2CCC(O2)(O)[O:10]C)OC>>[H:20][O+:10](C)C1(CCC(O1)CC2=C(C=C(C=C2)C)OC)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
C[C:10]12CC(=C)CC([C:11]1([O-:12])OC)C[C:20]2=[O:21].[Na+]>>C[C:10]1=[C:20](CC(CC(=C)C1)[C:11](=[O:12])OC)[O-:21].[Na+] 10,11=10,20;20,21=21;12=11
[H:20][O+:21]1C(CC23C1OC45C2(C=CC4)C(CC3C(C)(C)C)OC5=O)OC.CC(=O)[O-:10].BrBr>>[H:20][O:10]C(=O)C.CC(C)(C)C1CC2C34C15CC([O:21]C5OC3(CC=C4)C(=O)O2)OC.BrBr 10=20;20,21=21
[H:20][NH+:21]1C2=C(CC1(C)O)C(=O)CCC2.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.CC1(CC2=C([NH:21]1)CCCC2=O)O.O 10=20;20,21=21
[H:20][OH+:21]C1(CCCC1)OCC.[OH2:10]>>[H:20][OH2+:10].CCOC1(CCCC1)[OH:21] 10=20;20,21=21
CCOC(=O)N(CC1=CC=CC=C1)C(C=[C+:20][CH2:10][Si-:11](C)(C)(C)[O+](CC)[Al-](CC)(Cl)Cl)C2=CC=CC=C2>>CCOC(=O)N(CC1=CC=CC=C1)C(C=[C:20]=[CH2:10])C2=CC=CC=C2.CC[O+]([Al-](CC)(Cl)Cl)[Si:11](C)(C)C 10,11=10,20
CC1[C:20](=[NH+:21]C(CC2=CC=CC=C2)C(=O)O)CCC3(C1(CCCC3=O)O)C.[OH2:10].CC1(C2CCC1(C(=O)C2)CS(=O)(=O)[O-])C.C1=CC=C(C=C1)CC(C(=O)[O-])[NH3+]>>CC1C2(CCCC(=O)C2(CC[C:20]1([NH:21]C(CC3=CC=CC=C3)C(=O)O)[OH2+:10])C)O.CC1(C2CCC1(C(=O)C2)CS(=O)(=O)[O-])C.C1=CC=C(C=C1)CC(C(=O)[O-])[NH3+] 10=20;20,21=21
[H:20][C:21]12C=CC=C([C+:22]1CCCC2(C)C)C#N.OP(=O)(O)OP(=O)(O)[O-:10].O>>[H:20][O:10]P(=O)(O)OP(=O)(O)O.CC1(CCC[C:22]2=[C:21]1C=CC=C2C#N)C.O 10=20;20,21=21,22
[H:20][NH+:21](C(C1=CC=C(C=C1)Br)O)NC(=O)C2=CC=CC=C2.C(=O)(C(F)(F)F)[O-:10]>>[H:20][O:10]C(=O)C(F)(F)F.C1=CC=C(C=C1)C(=O)N[NH:21]C(C2=CC=C(C=C2)Br)O 10=20;20,21=21
C[N+](=CO[C:20]1([N-:10]C(=NC(=N1)Cl)Cl)[Cl:21])C>>C[N+](=CO[C:20]1=[N:10]C(=NC(=N1)Cl)Cl)C.[Cl-:21] 10=20;20,21=21
C[C+:20]=O.[CH:11]1=[CH:10]C2=CC=C(C=C2C=C1)S(=O)(=O)O>>C[C:20](=O)[CH:10]1[CH+:11]C=CC2=CC(=CC=C12)S(=O)(=O)O 10,11=10,20
[B-:10]([O+:11](C)CCC)(F)(F)F>>[B:10](F)(F)F.CCC[O:11]C 10,11=11
CN(C)[CH:20]([O-:10])[O:21]C>>CN(C)[CH:20]=[O:10].C[O-:21] 10=20;20,21=21
CC#[C-:10].CC#C[C:20](=[O:21])C>>CC#C[C:20](C)([C:10]#CC)[O-:21] 10=20;20,21=21
[H:20][OH:21].CCC(CC)[O-:10]>>[H:20][O:10]C(CC)CC.[OH-:21] 10=20;20,21=21
[H:20][NH+:21](C1=C(C=CC=C1)C(=O)C)C(=O)C(CC2=CC=CC=C2)N.C(=O)(C(F)(F)F)[O-:10].C(=O)=O>>[H:20][O:10]C(=O)C(F)(F)F.CC(=O)C1=C(C=CC=C1)[NH:21]C(=O)C(CC2=CC=CC=C2)N.C(=O)=O 10=20;20,21=21
[Li:11][CH3:10].CC1(CC(=C[C:20](=[O:21])C1)O[Si](C)(C)C)C>>[Li+:11].CC1(CC(=C[C:20](C1)([CH3:10])[O-:21])O[Si](C)(C)C)C 10,11=10,20;20,21=21
[H:20][N+:21](C)(C)NC(=O)C1C(C=CC(C1CCCC#N)O)CC.C(=O)([O-:10])O[K].[K+].[I-]>>[H:20][O:10]C(=O)O[K].CCC1C=CC(C(C1C(=O)N[N:21](C)C)CCCC#N)O.[K+].[I-] 10=20;20,21=21
CCC(CC1CCCCC1)[CH:20]=[O+:21][Ti-](Cl)(Cl)(Cl)Cl.CC(C)(C)O[C:11](=[CH2:10])[O:12][Si](C)(C)C>>CCC(CC1CCCCC1)[CH:20]([CH2:10][C:11](=[O+:12][Si](C)(C)C)OC(C)(C)C)[O:21][Ti-](Cl)(Cl)(Cl)Cl 10,11=10,20;12=11;20,21=21
C[N:10](C)N.C1=CC=C(C=C1)[CH2:20][Cl:21]>>C[N+:10](C)([CH2:20]C1=CC=CC=C1)N.[Cl-:21] 10=20;20,21=21
[H:20][C:21]1([CH:22]=[O+:23]C2=C(C1=[O+][B-](F)(F)F)C(=CC(=C2)O)O)C3=CC=C(C=C3)O.C[NH:10]C.CCOCC.O=P(Cl)(Cl)Cl.[Cl-]>>[H:20][NH+:10](C)C.[B-]([O+]=C1[C:21](=[CH:22][O:23]C2=C1C(=CC(=C2)O)O)C3=CC=C(C=C3)O)(F)(F)F.CCOCC.O=P(Cl)(Cl)Cl.[Cl-] 10=20;22,23=23;20,21=21,22
[H:20][O:21][Si](C)(C)C.CC[O-:10].CCCC[N+](CCCC)(CCCC)CCCC.O>>[H:20][O:10]CC.C[Si](C)(C)[O-:21].CCCC[N+](CCCC)(CCCC)CCCC.O 10=20;20,21=21
CC(C)O[S:20](C1=CC=CC=C1)([O-:10])[Cl:21].C1=CC=[NH+]C=C1>>CC(C)O[S:20](=[O:10])C1=CC=CC=C1.[Cl-:21].C1=CC=[NH+]C=C1 10=20;20,21=21
CCC1=C(C=C(C=C1)C2C(C[C:20](O2)([O-:10])[O:21]C)C(=O)OC)O.CO.C[OH+][Na]>>CCC1=C(C=C(C=C1)C2C(C[C:20](=[O:10])O2)C(=O)OC)O.C[O-:21].CO.C[OH+][Na] 10=20;20,21=21
[H:20][O+:21]=CC#CCCCOCC1=CC=C(C=C1)OC.C[NH:10]C.[Li+].CN(C)P(=O)(N(C)C)N(C)C.OP(=O)([O-])[O-]>>[H:20][NH+:10](C)C.COC1=CC=C(C=C1)COCCCC#CC=[O:21].[Li+].CN(C)P(=O)(N(C)C)N(C)C.OP(=O)([O-])[O-] 10=20;20,21=21
C[C+:20]=O.C[C:11]1=[CH:10]C=CC=C1>>C[C+:11]1C=CC=C[CH:10]1[C:20](=O)C 10,11=10,20
[H:20][OH:21].C1=CC(=NC(=[NH2+])C1[C-:10](Cl)Cl)N.CCO.[Na+]>>[H:20][C:10](C1C=CC(=NC1=[NH2+])N)(Cl)Cl.[OH-:21].CCO.[Na+] 10=20;20,21=21
C[Si](C)(C)[O+:21]1CC[O:10][CH2:20]1>>C[Si](C)(C)[O:21]CC[O+:10]=[CH2:20] 10=20;20,21=21
[H:20][CH:21]1C(=O)OC(O[C:22]1=[O:23])(C)C.CCC=[N+](C)CC(=O)[O-:10]>>[H:20][O:10]C(=O)C[N+](=CCC)C.CC1(O[C:22](=[CH:21]C(=O)O1)[O-:23])C 10=20;22,23=23;20,21=21,22
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC(=C2)C#N)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C=CC2=C1C=CC(=C2)C#N 10=20;20,21=21,22
CC1(OC(C(O1)C(C[S+](C)O[C:20](C(F)(F)F)([O-:10])[O:21]C(=O)C(F)(F)F)OCC2=CC=CC=C2)C(C[S+](C)[O-])OCC3=CC=CC=C3)C>>CC1(OC(C(O1)C(C[S+](C)O[C:20](=[O:10])C(F)(F)F)OCC2=CC=CC=C2)C(C[S+](C)[O-])OCC3=CC=CC=C3)C.C(=O)(C(F)(F)F)[O-:21] 10=20;20,21=21
